US09126952B2
0.58 g (1.75 mmol) of tert-butyl 3-benzothiazol-2-ylmethylpiperidine-1-carboxylate were dissolved in 5.0 ml of hydrogen chloride/dioxane (4 N) and stirred at room temperature for 1 h. The solvent was removed in vacuo, and the residue was dissolved in 50 ml of water. The aqueous phase was adjusted to pH=9 using sodium hydroxide solution (1 N) and extracted with 2×50 ml of ethyl acetate. Conventional work-up gave 0.41 g of 2-piperidin-3-ylmethylbenzothiazole; HPLC/MS (M+H)+=233 as oil.

reactant | tert-butyl 3-benzothiazol-2-ylmethylpiperidine-1-carboxylate | 1.75 mmol, 0.58 g | S1C(=NC2=C1C=CC=C2)CC2CN(CCC2)C(=O)OC(C)(C)C | C18H24N2O2S
solvent | hydrogen chloride dioxane | 4 N, 5.0 ml | Cl.O1CCOCC1
product | 2-piperidin-3-ylmethylbenzothiazole | 0.41 g | N1CC(CCC1)CC=1SC2=C(N1)C=CC=C2 | C13H16N2S
